### PR TITLE
[Merged by Bors] - feat: port Analysis.InnerProductSpace.PiL2

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Some theorems in `Analysis.InnerProductSpace.Basic`, such as `Orthonormal.inner_right_finsupp`, accidentally gained  a new `DecidableEq` hypothesis during the port. This removes the hypothesis by using `classical!` instead of `classical` in their proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Komyyy** [comment]
The cause of `DecidableEq` & `classical` problem is in `Analysis.InnerProductSpace.Basic`.
There are no `include` & `omit` in Lean 4, so lemmas like `Orthonormal.inner_right_finsupp` requires an new `DecidableEq` instance.
The solution is to replace `classical` in these lemmas with `classical!`.

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 1]
```diff
@@ -0,0 +1,1010 @@
...
+#align orthonormal_basis.inhabited OrthonormalBasis.instInhabited
+
+@[coe, inherit_doc OrthonormalBasis]
+protected def cast (b : OrthonormalBasis ι 𝕜 E) (i : ι) : E := by
+  classical exact b.repr.symm (EuclideanSpace.single i (1 : 𝕜))
+
+/-- `b i` is the `i`th basis vector. -/
+instance instCoeFun : CoeFun (OrthonormalBasis ι 𝕜 E) fun _ => ι → E where
+  coe := OrthonormalBasis.cast
+#align orthonormal_basis.has_coe_to_fun OrthonormalBasis.instCoeFun
```
Comment (ChrisHughes24) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:354]: It might be best to replace this with `FunLike`

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

File: Mathlib/Analysis/InnerProductSpace/Basic.lean [hunk 2]
```diff
@@ -790,14 +790,16 @@ theorem orthonormal_subtype_iff_ite {s : Set E} :
 vectors picks out the coefficient of that vector. -/
 theorem Orthonormal.inner_right_finsupp {v : ι → E} (hv : Orthonormal 𝕜 v) (l : ι →₀ 𝕜) (i : ι) :
     ⟪v i, Finsupp.total ι E 𝕜 v l⟫ = l i := by
-  classical simpa [Finsupp.total_apply, Finsupp.inner_sum, orthonormal_iff_ite.mp hv] using Eq.symm
+  classical!
+  simpa [Finsupp.total_apply, Finsupp.inner_sum, orthonormal_iff_ite.mp hv] using Eq.symm
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Basic.lean:794]: Why did this file change? Does the content of the proof change the API here (due to pulling in unwanted `DecidabeEq`s)?
